US04618627
In 10 ml of methanol was dissolved 830 mg of 1-(3,4-diacetoxyphenyl)-1-nonen-3-one and after adding 7.5 ml of an aqueous 1N-sodium hydroxide solution to the solution, the mixture was stirred for 30 minutes at room temperature. Then, the reaction mixture was ice-cooled and after adding thereto 25 ml of water, the mixture was acidified with the addition of 5 ml of an aqueous 1N-hydrochloric acid solution to form crystals, which were collected by filtration and washed with water to provide 580 mg of 1-(3,4-dihydroxyphenyl)-1-nonen-3-one.

reactant | 1-(3,4-diacetoxyphenyl)-1-nonen-3-one | 830 mg | C(C)(=O)OC=1C=C(C=CC1OC(C)=O)C=CC(CCCCCC)=O | C19H24O5
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 25 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 1-(3,4-dihydroxyphenyl)-1-nonen-3-one | 580 mg | OC=1C=C(C=CC1O)C=CC(CCCCCC)=O | C15H20O3
